US08633239B2
5-(2-(phenylsulfonyl)ethyl)-1H-indole (Formula III)
A suspension of (E)-5-(2-(phenylsulfonyl)vinyl)-1H-indole (5.0 g) in 50 ml methanol, 10 ml THF and 10% Pd/C (1.0 g) was subject to hydrogenation at 45-50 psi. Upon completion of the reaction the catalyst was filtered off and the solvent removed under vacuum to provide the title compound in about 85-90% yield as an off-white solid. 1H NMR CDCl3 δ=8.15 (bs, NH), 7.93-8.00 (m, 2H), 7.53-7.70 (m, 3H), 7.38 (s, 1H), 7.30 (d, 1H), 7.20 (dd, 1H), 6.93 (dd, 1H), 6.42-6.48 (m, 1H), 3.37-3.46 (m, 2H), 2.99-3.17 (m, 2H). ESI Mass (M+23) 308.4

reactant | (E)-5-(2-(phenylsulfonyl)vinyl)-1H-indole | 5.0 g | C1(=CC=CC=C1)S(=O)(=O)/C=C/C=1C=C2C=CNC2=CC1 | C16H13NO2S
solvent | methanol | 50 ml | CO | CH4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 5-(2-(phenylsulfonyl)ethyl)-1H-indole | about 85-90% yield | C1(=CC=CC=C1)S(=O)(=O)CCC=1C=C2C=CNC2=CC1 | C16H15NO2S
